US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 4-benzyl-1-(2,5-difluoro-4-methoxyphenyl)piperidine (300 mg). The resulting crude product was purified on silica gel column chromatography (eluent, hexane: ethyl acetate=4:1) to provide 4-(4-benzylpiperidino)-2,5-difluorophenol (138 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 4-benzyl-1-(2,5-difluoro-4-methoxyphenyl)piperidine | 300 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C19H21F2NO
product | 4-(4-benzylpiperidino)-2,5-difluorophenol | 138 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=CC(=C(C=C1F)O)F | C18H19F2NO
